US06824890B2
Tetrastilbenylsilane (Si(STB)4).
A round bottom flask (50 mL) equipped with a teflon coated stir bar was charged with tetrakis(4-bromophenyl)silane (326 mg, 0.5 mmol), styrene (2.0 g, 12 mmol), Pd(OAc)2 (14 mg, 12 mol %), K2CO3 (690 mg, 5 mmol), n-Bu4NBr (645 mg, 2 mmol), and DMA (10 mL). The flask was fitted with a rubber septum and purged with nitrogen prior to heating (80° C.) with stirring for 48 hours. The reaction mixture was allowed to cool to room temperature, diluted with CH2Cl2, and washed five times with brine. The organic phase was dried with MgSO4, filtered through silica gel and the solvent was evaporated under reduced pressure. The residue was dissolved in CHCl3 and precipitated with hexanes. The colorless needle-like crystals were collected (52% yield). 1H NMR (CDCl3): δ 7.61 (d, J=8.0 Hz, 8H), 7.55 (m, 16H), 7.38 (t, J=7.3 Hz, J=8.0 Hz, 8H), 7.29 (t, J=7.3 Hz, 4H), 7.17 (AA′BB′ pattern, J=16.4 Hz, 8H). 13C NMR (CDCl3) δ 138.5, 137.1, 136.7, 133.4, 129.5, 128.6, 128.4, 127.7,126.5, 125.9.

reactant | tetrakis(4-bromophenyl)silane | 0.5 mmol, 326 mg | BrC1=CC=C(C=C1)[Si](C1=CC=C(C=C1)Br)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C24H16Br4Si
reactant | styrene | 12 mmol, 2.0 g | C=CC1=CC=CC=C1 | C8H8
reactant | K2CO3 | 5 mmol, 690 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | n-Bu4NBr | 2 mmol, 645 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(OAc)2 | 14 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | Tetrastilbenylsilane | 52% yield | C1(=C(C=CC=C1)[Si](C1=C(C=CC=C1)C=CC1=CC=CC=C1)(C1=C(C=CC=C1)C=CC1=CC=CC=C1)C1=C(C=CC=C1)C=CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C56H44Si
